US09422332B2
A solution of acetyl chloride (552 mg, 500 μL, 7.03 mmol, Eq: 115) in MeOH (2 mL) was added to a vial containing ((S)-1-{(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (36 mg, 61.1 μmol, Eq: 1.00). The mixture was stirred at RT for 1 h. The solvent was evaporated and the resulting solid was dissolved in MeCN (3 mL) and water (1 mL) which was lyophilized to give (S)-2-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide hydrochloride (30 mg) as a white powder, m/z=489 (M+H).

reactant | acetyl chloride | 7.03 mmol, 500 μL, 552 mg | C(C)(=O)Cl | C2H3ClO
reactant | ((S)-1-{(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 61.1 μmol, 36 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)Cl)=O)=O)=O | C30H38ClFN4O5
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-2-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide hydrochloride | 30 mg | Cl.ClC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CCC2=CC=CC=C12)C([C@H](C(C)C)NC([C@H](C)NC)=O)=O | InChI=1S/C25H30ClFN4O3.ClH/c1-14(2)20(29-23(32)15(3)28-4)25(34)31-13-12-16-8-5-6-9-17(16)22(31)24(33)30-21-18(26)10-7-11-19(21)27;/h5-11,14-15,20,22,28H,12-13H2,1-4H3,(H,29,32)(H,30,33);1H/t15-,20-,22-;/m0./s1
